US04452985
[4-[4-(Cyanomethyl)Phenyl]-2-Thiazolyl]Guanidine, Hydrobromide
To a stirred solution of 6.36 g. (0.04 mole) of p-acetylphenyl acetonitrile in 100 ml. of methylene chloride is added 6.40 g. (0.04 mole) of bromine in 50 ml. of methylene chloride. The reaction solution is warmed for a few minutes and the heat then removed. After a few minutes the bromine color disappears. The reaction mixture is stirred an additional 1/2 hour at room temperature. The methylene chloride is removed in vacuo on a rotary evaporator. To the residue is added 100 ml. of ethanol and 4.73 g. (0.04 mole) of amidinothiourea. The reaction mixture is heated with stirring for 1 hour under reflux, cooled in ice and then filtered. There is obtained 7.6 g. of product, m.p. 242°-246° (dec.). Recrystallization is from ethanol to which is then added enough water to form a solution. Ether is added to the cloudy point. There is obtained 5.9 g. of crystals, m.p. 259°-261° (dec.).

reactant | p-acetylphenyl acetonitrile | 0.04 mole | C(C)(=O)C1=CC=C(C=C1)CC#N | C10H9NO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | bromine | 0.04 mole | BrBr | Br2
reactant | amidinothiourea | 0.04 mole | C(N)(=N)NC(=S)N | C2H6N4S
solvent | Ether | CCOCC | C4H10O
product | [4-[4-(Cyanomethyl)Phenyl]-2-Thiazolyl]Guanidine, Hydrobromide | Br.C(#N)CC1=CC=C(C=C1)C=1N=C(SC1)NC(=N)N | InChI=1S/C12H11N5S.BrH/c13-6-5-8-1-3-9(4-2-8)10-7-18-12(16-10)17-11(14)15;/h1-4,7H,5H2,(H4,14,15,16,17);1H
